US06610685B2
18.5 g N-iodosuccinimide at 0° C. was added to a solution of 17.55 g 6-cyclopropoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene in acetonitrile and the mixture was stirred at this temperature for 15 min. The solid was collected by filtration, washed with cold acetonitrile and dried to constant weight to yield 20.1 g 6-cyclopropoxy-8-iodo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene as beige crystals melting at 104-105° C.

reactant | N-iodosuccinimide | 18.5 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-cyclopropoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 17.55 g | C1(CC1)OC1=CC=2C=C3N(C2C=C1)CCC3 | C14H15NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-cyclopropoxy-8-iodo-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | 20.1 g | C1(CC1)OC1=CC=2C(=C3N(C2C=C1)CCC3)I | C14H14INO
